US05219847
I-2-3: Synthesis of zinc 3-propoxypicolinate
To a solution of 0.85 g (4.7 mmol) of 3-propoxypicolinic acid dissolved in 35 ml of water was dropwise added, while stirring, a solution of 0.52 g (2.3 mmol) of zinc acetate.dihydrate dissolved in 2 ml of water. After the dropwise addition, the mixture was stirred at room temperature for 60 minutes. When left to stand in a refrigerator overnight, no crystal was obtained, and therefore, the mixture was subjected to concentration under a reduced pressure. The solid precipitated was recrystallized from ethanol to obtain 0.50 g of crystals (yield 47.6%).

reactant | 3-propoxypicolinic acid | 4.7 mmol, 0.85 g | C(CC)OC=1C(=NC=CC1)C(=O)O | C9H11NO3
reactant | zinc acetate | 2.3 mmol, 0.52 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | 35 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | zinc 3-propoxypicolinate | 0.50 g, yield 47.6% | C(CC)OC=1C(=NC=CC1)C(=O)[O-].[Zn+2].C(CC)OC=1C(=NC=CC1)C(=O)[O-] | InChI=1S/2C9H11NO3.Zn/c2*1-2-6-13-7-4-3-5-10-8(7)9(11)12;/h2*3-5H,2,6H2,1H3,(H,11,12);/q;;+2/p-2
